US04778805
Step 1. Ethyl 3-oxo-2-(3,4 dimethyl-2-methoxyphenoxy) butanoate
To a stirred solution of 3,4-dimethyl-2-methoxyphenol (101 g, 0.5 mole) in toluene (100 mL), cooled to 0° C., was added potassium hexamethyldisilazane (1.08 L, 0.675M in toluene). The solution was warmed to 80° C. over a period of 1h. The reaction was treated with ethyl 2-chloroacetoacetate (101 mL, 0.55 mole) and then heated to reflux for 3h. The reaction was cooled to RT and quenched with 25% NH4OAc, and the products were extracted using EtOAc. Drying (Na2SO4) and evaporation of the solvent left a liquid which was fractionally distilled under vacuum (0.1 Torr) to give 3,4-dimethyl-2-methoxytrimethylsilyloxy benzene (bp 55°-100° C.) and 104 g of the title compound (bp 115°-6° C.)

reactant | 3,4-dimethyl-2-methoxyphenol | 0.5 mole, 101 g | CC=1C(=C(C=CC1C)O)OC | C9H12O2
reactant | potassium hexamethyldisilazane | 0.675M, 1.08 L | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | ethyl 2-chloroacetoacetate | 0.55 mole, 101 mL | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-dimethyl-2-methoxytrimethylsilyloxy benzene | CC=1C(=C(C=CC1C)O[Si](C)(C)C)OC | C12H20O2Si
